US04067858
A suspension of the polymer ester of (6R, 7R)-7-amino-3-chloromethylceph-3-em-4-carboxylic acid. (5.00g, from example 31(a) was stirred in methylene chloride (100 ml) under nitrogen for 30 minutes at room temperature 18-21 degrees). The mixture was cooled to 0° and propylene oxide (1.74 g, 0.03 ml) was added, and stirring continued for 30 min. Thienylacetylchloride (3.0 ml. 3.89 g. 0.024 ml) was added dropwise over a period of 10 minutes maintaining the temperature 0°-5°. When the addition was completed, stirring was continued for 15 minutes at 0°-5° and then for a further 5 hours allowing the temperature to rise to room temperature. The reaction mixture was filtered and pulled as dry as possible. The product was washed in methylene chloride (3 × 40 ml), methanol (2 × 40 ml), water (4 × 40 ml) methanol (2 × 40 ml), and methylene chloride (3 × 40 ml) and dried to constant weight in vacuo at 30° to give the yellow-orange coloured polymer ester of (6R, 7R)-3-chloromethyl-7-(2-thienylacetamido) ceph-3-em-4-carboxylic acid (5.10 g). A sample of the product on suspending in methylene chloride, spraying with a 0.5% solution of ninhydrin in butan-1-ol, and warming gave an orange colouration indicating that the starting product had been consumed and the title product had been formed.

reactant | (6R, 7R)-7-amino-3-chloromethylceph-3-em-4-carboxylic acid | N[C@H]1[C@@H]2N(C(=C(CS2)CCl)C(=O)O)C1=O | C8H9ClN2O3S
reactant | propylene oxide | 0.03 ml, 1.74 g | C1C(C)O1 | C3H6O
reactant | Thienylacetylchloride | 3.0 ml, 3.89 g | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | (6R, 7R)-3-chloromethyl-7-(2-thienylacetamido) ceph-3-em-4-carboxylic acid | 5.10 g | ClCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(CC=2SC=CC2)=O)=O | C14H13ClN2O4S2
